data/mechanisms/records/IMS9-EQ9.26e.json
{"mechanism_id": "IMS9-EQ9.26e", "species": [{"species_id": "distonic_ion_carbocation_form", "mapped_smiles": "[CH3:1][C+:2]([O:9][1H:10])[CH2:3][CH2:4][CH:5][CH:6]([CH3:7])[CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methylpentene_radical_cation_mz70", "mapped_smiles": "[CH2+:4][CH:5][CH:6]([CH3:7])[CH3:8]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "acetone_enol_neutral", "mapped_smiles": "[CH3:1][C:2]([O:9][1H:10])=[CH2:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_ion_carbocation_form"]}, {"state_id": "state_products", "species_ids": ["methylpentene_radical_cation_mz70", "acetone_enol_neutral"]}], "steps": [{"step_id": "step_inductive_charge_migration", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_inductive", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_charge_migration", "support_type": "textbook_proposed", "locator": {"page": 249, "equation": "9.26", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones (lower structure, arrow labelled 'i')"}, "confidence": 0.7, "curator_note": "FIFTH channel. The page draws the distonic rH intermediate of IMS9-EQ9.26d a SECOND time, directly below it and joined to it by a vertical DOUBLE-HEADED arrow, in its other localisation: the O-H is drawn as a plain single bond to a NEUTRAL oxygen and the '+' is printed on the carbonyl carbon (C2), with the radical dot still on C5. The two drawings are the standard C(+)-OH <-> C=O(+)H resonance pair of an oxygen-stabilised cation -- one species, two localisations -- and this record uses the one the page actually draws the arrow FROM, per convention C. PRECURSOR is therefore written [C+:2]([O:9][1H:10]) with charge on carbon and a neutral hydroxyl, NOT the [C:2]=[O+:9][1H:10] form used in IMS9-EQ9.26d; both are m/z 128 and the same ion. Book draws 1 arc, the ONLY curved arrow anywhere in Equation 9.26: its tail sits on the C3-C4 bond and its head points AT the '+' on C2. Move <1> encodes it as that bonding pair entering the FORMING C2=C3 bond -- a disclosed reading, since the drawn head lands on the cationic ATOM rather than on the bond, which is the same idealisation IMS9-EQ9.22 records for its ring-contraction arc and the only reading that produces the drawn enol. It is a full two-electron arrow (the step is labelled 'i' and the precursor's charge site is even-electron), so electron_count is 2 and no fishhook is implied. RESULT -- the complementary McLafferty product: the charge stays with the HYDROCARBON, giving the distonic C5H10+. ion the page labels 'm/z 70' (drawn with both a radical dot AND a '+'), while the oxygen leaves as the neutral acetone enol CH2=C(OH)CH3. Together with IMS9-EQ9.26d this is the classic 58/70 charge-retention pair from one rearranged intermediate. MS CONTEXT: the page prints no ionisation conditions, so 70 eV EI is the corpus house default, disclosed rather than read off the page. Figure 9.9 (printed p247) is the 6-methyl-2-heptanone spectrum and does carry abundances, but it is NOT this page and this scheme prints no percentage, so per convention F no relative_intensity is recorded; peaks are status 'proposed'."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 128.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_70", "species_id": "methylpentene_radical_cation_mz70", "step_id": "step_inductive_charge_migration", "observed_mz": 70.0777, "hydrogen_shift": -1, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-04T00:00:00Z", "modified_at": "2026-08-04T00:00:00Z"}}
